* C:\users\darko\Desktop\Projects\Personal\signal-generator\simulation\vca.asc
* Generated by LTspice 26.0.2 for Windows.
Q1 N002 N003 N005 0 NPN
Q2 N005 N008 N006 0 NPN
X§U1 VCTL N006 VCC VEE N007 TL072 ;§pnba In+)In-)V+)V-)OUT
V2 VCC 0 12
V3 VEE 0 -12
R1 N006 0 1k
R2 N008 N007 100
R3 VCC N002 1k
C1 PRECISE_SIGNAL N002 100µ
C2 N005 0 100µ
R9 N004 SIGNAL 6k
R10 0 N004 10
X§U4 N004 N001 VCC VEE N001 TL072 ;§pnba In+)In-)V+)V-)OUT
V5 VCTL 0 3.3
V6 SIGNAL 0 SINE(1.65 1.65 1k)
R6 VCC N003 1k
R7 N003 0 2k
R8 PRECISE_SIGNAL 0 100k
C3 N003 N001 100µ
.model NPN NPN
.model PNP PNP
.lib C:\users\darko\AppData\Local\LTspice\lib\cmp\standard.bjt
.include TL072.lib
.tran 0 12m 10m
* attenuation of 600. brings the signal down to 5mV pp
* precise voltage controlled amplifier
.backanno
.end
